US07728003B2
Step A. 2-(3,5-Dimethoxy-benzylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 1 Step F, the title compound was prepared from 3,5-dimethoxybenzylamine and 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (10 mg, 0.02 mmol). 10 mg of 2-(3,5-Dimethoxy-benzylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.27 (s, 1H), 8.47 (s, 1H), 7.30 (d, J=7.8 Hz, 1H), 7.19 (s, 1H), 7.09 (d, J=7.8 Hz, 1H), 6.44 (s, 1H), 6.26 (s, 2H), 5.99 (br, 1H), 4.37 (q, J=7.1 Hz, 2H), 4.28 (d, J=6.2 Hz, 2H), 3.74 (s, 6H), 2.98 (m, 4H), 2.16 (m, 2H), 1.38 (t, J=7.1 Hz, 3H).

reactant | 3,5-dimethoxybenzylamine | COC=1C=C(CN)C=C(C1)OC | C9H13NO2
reactant | 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.02 mmol, 10 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
product | 2-(3,5-Dimethoxy-benzylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 10 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCC2=CC(=CC(=C2)OC)OC)N(C1)C=1C=C2CCCC2=CC1)=O | C28H28N4O5
